US05591762
4'-[[2-n-Butyl-4-methyl-6-(1-oxo-isoindolin-2-yl)-benzimidazol-1-yl]-methyl]-2-(1H-tetrazol-5-yl)-biphenyl
Prepared analogously to Example 10 from 4'-[[2-n-butyl-4-methyl-6-(1-oxo-isoindolin-2-yl)-benzimidazol-1-yl]-methyl]-2-cyano-biphenyl and sodium azide in dimethylformamide.

reactant | 4'-[[2-n-butyl-4-methyl-6-(1-oxo-isoindolin-2-yl)-benzimidazol-1-yl]-methyl]-2-cyano-biphenyl | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C=C(C=C2C)N2C(C1=CC=CC=C1C2)=O | C34H30N4O
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4'-[[2-n-Butyl-4-methyl-6-(1-oxo-isoindolin-2-yl)-benzimidazol-1-yl]-methyl]-2-(1H-tetrazol-5-yl)-biphenyl | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=C(C=C2C)N2C(C1=CC=CC=C1C2)=O | C34H31N7O
